US04294960
Ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer, 60 g.), 1-bromo-2-chloroethane (54.1 g.), potassium carbonate (78 g.) and N,N-dimethylformamide (200 ml.) were treated in a similar manner to that of Example F-(1) to give ethyl 2-(2-chloroethoxyimino)-3-oxobutyrate (syn isomer, 83.6 g.), oil.

reactant | Ethyl 2-hydroxyimino-3-oxobutyrate | 60 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | 1-bromo-2-chloroethane | 54.1 g | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 78 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-chloroethoxyimino)-3-oxobutyrate | 83.6 g | ClCCON=C(C(=O)OCC)C(C)=O | C8H12ClNO4
